US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-(2-fluorophenyl-oxy)-pyrazine, CJS 430
Using Method EE with 2-chloro-6-(2-fluorophenyloxy)-pyrazine (200 mg, 0.89 mmol) and 3,4,5-trimethoxyaniline (196 mg, 1.07 mmol), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (234 mg). Yield: 71%. 1H NMR (250 MHz, DMSO-d6) δ 3.42 (s, 6H, [CH3O]3+5), 3.54 (s, 3H, [CH3O]4), 6.69 (s, 2H, Harom2′+6′), 7.24-7.41 (m, 4H, Harom), 7.83 (s, 1H, HPz 5), 7.96 (s, 1H, HPz 3), 9.57 (s, 1H, NH).

reactant | 2-chloro-6-(2-fluorophenyloxy)-pyrazine | 0.89 mmol, 200 mg | ClC1=NC(=CN=C1)OC1=C(C=CC=C1)F | C10H6ClFN2O
reactant | 3,4,5-trimethoxyaniline | 1.07 mmol, 196 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(3,4,5-Trimethoxyphenylamino)-6-(2-fluorophenyl-oxy)-pyrazine | Yield: 71% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=C(C=CC=C1)F | C19H18FN3O4
